US04778869
Preparation of Ethyl Methacryloxyacetate (EMA)
To a flask equipped with a stirrer was added 172.8 parts methacrylic acid and 202 parts triethylamine. This mixture was allowed to stir for 5 min. To this was added 245 parts ethyl chloroacetate. The reactants were heated to 60° C. and the exotherm carried the temperature up to 100° C. The temperature was kept between 90°-97° C. by cooling for 1/2 hour after which heat was supplied to hold the temperature at 90° for 1 hour. The mixture was cooled and filtered. This crude product was distilled at 65.5°-66° C. at 0.1 cm to yield 318 g of pure EMA as confirmed by chemical analysis.

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | ethyl chloroacetate | ClCC(=O)OCC | C4H7ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Ethyl Methacryloxyacetate | C(C(=C)C)(=O)OCC(=O)OCC | C8H12O4
